US07645753B2
N-(2-Chloro-3-ethoxy-5-formyl-phenyl)-acetamide
To a solution of 3-amino-4-chloro-5-ethoxy-benzoic acid methyl ester (1.8 g, 6.63 mmol, 1.0 equiv) in anhydrous THF (50 mL) was added lithium aluminium hydride (0.50 g, 13.25 mmol, 2.0 equiv) and the reaction mixture stirred at rt for 4 h. The crude reaction mixture was filtered, the filtrate extracted with diethyl ether (3×50 mL) and the combined organic phases dried over MgSO4 providing 1.58 g (100%) of the benzyl alcohol. The crude reaction product (0.13 g, 0.53 mmol, 1.0 equiv) was dissolved in THF (20 mL) and activated MnO2 (0.46 g, 5.34 mmol, 10.0 equiv) was added. After stirring at rt for 1 h, the reaction mixture was filtered and the solvent removed by evaporation under reduced pressure. A conc. solution of sodium chloride (100 mL) was added, the mixture extracted with ethyl acetate (3×100 mL) and the combined organic phases dried over MgSO4. Purification of the crude material with column chromatography on silica eluting with heptane/ethyl acetate (2:1) provided 0.058 g (45%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.49 (t, J=7.0 Hz, 3H), 2.29 (s, 3H), 4.19 (q, J=7.0 Hz, 2H), 7.22 (d, J=1.6 Hz, 1H), 7.78 (br s, 1H), 8.56 (br s, 1H), 9.94 (br s, 1H). MS (ISP): 242.1 [M+H]+.

reactant | 3-amino-4-chloro-5-ethoxy-benzoic acid methyl ester | 6.63 mmol, 1.8 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)OCC)Cl)N)=O | C10H12ClNO3
reactant | lithium aluminium hydride | 13.25 mmol, 0.50 g, 2.0 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 5.34 mmol, 0.46 g, 10.0 equiv | O=[Mn]=O
product | N-(2-Chloro-3-ethoxy-5-formyl-phenyl)-acetamide | 0.058 g, 45% | ClC1=C(C=C(C=C1OCC)C=O)NC(C)=O | C11H12ClNO3
